2117-07-25 06:57:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
   - placed A-line at 0:00
   - ABG at 9pm 7.16/58/160, increased RR from 20 to 24, ABG at 12:30am
   7.27/51/225
   - vent settings: increased TV 400 to 500, decreased FiO2 50 to 30%,
   still sat's 99%
   - ABG at 2:30am= 7.38/37/114, repeat at 5:30am=7.44/30/141
     - vent RR decreased from 24 to 18
   - got 500cc 1/2 NS (b/c Na 149) bolus IVF
   - weaning off Levophed 0.09 to 0.07
   - CE at midnight CK: 589 Trop Pnd
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Infusions:
   Norepinephrine - 0.07 mcg/Kg/min
   Heparin Sodium - 300 units/hour
   Midazolam (Versed) - 2 mg/hour
   Fentanyl (Concentrate) - 100 mcg/hour
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2117-7-25**] 06:56 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.1
C (98.8
   Tcurrent: 36.4
C (97.5
   HR: 99 (90 - 117) bpm
   BP: 92/57(70) {92/57(70) - 108/61(296)} mmHg
   RR: 24 (9 - 31) insp/min
   SpO2: 99%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 57.5 kg (admission): 57.5 kg
   Height: 70 Inch
             Total In:
                                                                    242 mL
                                                                    689 mL
   PO:
             TF:
   IVF:
                                                                    242 mL
                                                                    689 mL
   Blood products:
   Total out:
                                                                    250 mL
                                                                    245 mL
   Urine:
                                                                    250 mL
                                                                    245 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                     -8 mL
                                                                    444 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 500 (400 - 500) mL
   RR (Set): 24
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 30%
   PIP: 29 cmH2O
   Plateau: 19 cmH2O
   SpO2: 99%
   ABG: 7.44/30/141/20/-1
   Ve: 11.7 L/min
   PaO2 / FiO2: 470
   Physical Examination
   GENERAL: thin, intubated, sedated
   HEENT: NCAT. Sclera anicteric. PERRL, EOMI. Conjunctiva were pink, no
   pallor or cyanosis of the oral mucosa. No xanthalesma.
   NECK: Supple with JVP at 10
   CARDIAC: Distant heart sounds, no murmurs
   LUNGS: CTAB with poor/moderate air movement
   ABDOMEN: Soft, NTND. No HSM or tenderness. Abd aorta not enlarged by
   palpation. No abdominial bruits.
   EXTREMITIES: No c/c/e. No femoral bruits. Right femoral line C/D/I
   SKIN: Pink area beneath coccyx, no skin breakdown.
   PULSES:
   Right:DP 2+ PT 2+
   Left: DP 2+ PT 2+
   Labs / Radiology
   211 K/uL
   11.8 g/dL
   141 mg/dL
   0.9 mg/dL
   20 mEq/L
   4.5 mEq/L
   22 mg/dL
   112 mEq/L
   139 mEq/L
   34.2 %
   21.8 K/uL
        [image002.jpg]
                             [**2117-7-24**]  05:00 PM
                             [**2117-7-24**]  06:29 PM
                             [**2117-7-24**]  09:12 PM
                             [**2117-7-25**]  12:35 AM
                             [**2117-7-25**]  12:45 AM
                             [**2117-7-25**]  02:27 AM
                             [**2117-7-25**]  05:29 AM
                             [**2117-7-25**]  05:37 AM
   WBC
   22.9
   21.8
   Hct
   41.3
   34.2
   Plt
   193
   211
   Cr
   1.1
   1.0
   0.9
   TropT
   0.51
   0.55
   0.48
   TCO2
   23
   22
   24
   23
   21
   Glucose
   141
   145
   141
   Other labs: PT / PTT / INR:14.0/150.0/1.2, CK / CKMB /
   Troponin-T:351/25/0.48, ALT / AST:22/43, Alk Phos / T Bili:77/0.5,
   Differential-Neuts:94.4 %, Lymph:2.9 %, Mono:2.1 %, Eos:0.4 %, Lactic
   Acid:1.8 mmol/L, Albumin:3.5 g/dL, LDH:344 IU/L, Ca++:8.5 mg/dL,
   Mg++:2.2 mg/dL, PO4:1.5 mg/dL
   Assessment and Plan
   74 yo M w/ PMHx HTN, COPD presents with respiratory failure, now
   transferred from [**Hospital1 **] [**Location (un) 78**] with respiratory failure s/p intubation,
   NSTEMI, and hypotension requiring pressors.
   .
   # CORONARIES:  Current picture most consistent with NSTEMI.  Most
   likely demand related ischemia in the setting of a severe COPD flare.
   Patient denies chest pain. Echo shows hypokinesis in all areas except
   for the base, and LVEF 30-35%, but not consistent with territory of EKG
   changes. Biomarkers now trending down.
   - Plavix 75 mg, ASA 325 mg, simvastatin 80 mg daily
   - Continue heparin gtt
   - hold beta-blocker, ACEi for hypotension
   - repeat EKG
   - probable PCI before discharge
   - wean pressors with goal MAP > 60.
   .
   # PUMP:  Volume status appears euvolemic-hypovolemic, no crackles on
   exam, CXR WNL. [**Month (only) 11**] need continued hydration to support
   shock/vasodilation picture. No evidence of overload s/p 6L fluids.
   Echo shows EF of 30% with severe LV and RV systolic dysfunction.
   - cont IVF boluses as needed, 500cc now and then as indicated by
   exam/CXR to avoid overload
   - daily CXR
   .
   # RHYTHM: 1st degree AV block, sinus.
   - Cont to monitor on tele
   .
   # Respiratory failure/COPD: Patient has severe COPD on home O2 (history
   unvalidated, per OSH notes), with hyperinflation on CXR and presenting
   symptoms very c/w COPD flare (tripod position, wheezing) and reported
   not taking meds at home. A-a gradient elevated at 124. No evidence of
   PNA on CXR, afebrile but is currently still on levaquin.
   - Remain intubated in setting of shock of unknown etiology, switch to
   Fentanyl/Versed for sedation.
   - Consider trial of pressure support this afternoon.
   - Follow ABGs
   - Cont therapy for COPD flare (nebs, Solumedrol, abx)
   - Continue abx, day [**3-25**].
   - daily CXRs
   .
   # Hypotension: Patient maintained borderline adequate SBP's with
   aggressive IVF hydration of [**5-26**] L (per report, at OSH). Started on
   pressors during transport. However, patient was also on propofol which
   could not be weaned and may have contributed to hypotension. Most
   likely cause of shock is mixed picture including component of
   cardiogenic shock (with acutely elevated cardiac biomarkers, has low
   EF, however, has warm, well-perfused extremities) with vasodilatory
   state, such as septic shock, since patient is requiring high volumes of
   IVF and continues to be hypotensive. No obvious cause of sepsis, UA
   WNL, CXR clear. Hypovolemia may be a component of picture since COPD
   flare and decreased PO intake, but not likely the major etiology as
   patient was aggressively hydrated without improvement. No hx suggestive
   of anaphylactic shock.
   - wean Levophed as tolerated, with IVF boluses prn to maintain SBP>90
   and MAP>60.
   - A-line now to closely monitor hemodynamics, also closely monitor
   markers of end organ perfusion such as UOP and bolus for UOP<30cc/hr,
   trend lactate
   - WBC 22 with left shift, but on high dose steroids, trend
   - f/u blood cx
   - monitor exam for localizing signs of infxn
   - d/c femoral line as soon as possible, main peripheral venous access.
   .
   # Acid-base disturbance: Patient initially presented with ABG c/w
   respiratory acidosis. Now has primary resp acidosis with concurrent
   metabolic acidosis, non-AG. Respiratory component due to acute on
   chronic CO2 retention in the setting of COPD. Non-gap metabolic
   acidosis most likely due to receiving large amount of IVF over 24 hrs.
   - serial ABGs
   - follow lytes, gap, consider using bicarb for fluids if patient
   remains with severe non gap metabolic acidosis
   .
   # Psych: Holding home Ativan and mirtazipine.
   .
   # Skin care: possible developing ulcer below coccyx, monitor for now
   .
   FEN: Consider NGT feeds.  Replete lytes, monitor fingersticks, HISS
   while on steroids, NPO for now, OG in place
   .
   ACCESS: R femoral line in place at transfer, R A-line, peripheral.
   .
   PROPHYLAXIS:
   -DVT ppx with heparin gtt
   -VAP: VAP bundle
   -Pain management with Fentanyl, Versed
   -Bowel regimen with senna, colace
   .
   CODE: Presumed full
   .
   COMM: [**First Name8 (NamePattern2) 1738**] [**Known lastname 680**] [**Telephone/Fax (1) 7104**] (c)
   mother [**Telephone/Fax (1) 7105**] (H)
   Call w/ update tomorrow and get ICU consent.
   .
   DISPO: CCU for now
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   18 Gauge - [**2117-7-24**] 04:34 PM
   Multi Lumen - [**2117-7-24**] 04:36 PM
   Arterial Line - [**2117-7-25**] 12:33 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Communication:  Mother and brother.
   [**Name (NI) 129**] status: Presumed full
   Disposition:
   ------ Protected Section ------
   Cardiology Teaching Physician Note
   On this day I saw, examined and was physically present with the
   resident / fellow for the key portions of the services provided. I
   agree with the above note and plans.
   I would add the following remarks:
   History
   per housestaff
   nothing to add
   Physical Examination
   per housestaff
   nothing to add
   Medical Decision Making
   per housestaff
   nothing to add
   Above discussed extensively with patient.
   Total time spent on patient care: 60 minutes of critical care time.
   Additional comments:
   Severe copd likely complicated by NSTEMI, possibly takotsubo's
   Severe acidosis
   now improving on vent
   likely able to wean off vasopressors (in setting of systemic
   vasodilation)
   ultimately will favor cath to evaluate cad and revascularize if
   possible to provide more coronary reserve in setting of anticipated
   future COPD exacerbations
   ------ Protected Section Addendum Entered By:[**Name (NI) **] [**Name (NI) 1584**]
   on:[**2117-7-25**] 09:12 ------

2117-07-27 07:05:00 Physician Resident Progress Note
TITLE:
   Chief Complaint: Respiratory distress, systolic heart failure
   24 Hour Events:
 INVASIVE VENTILATION - STOP [**2117-7-26**] 11:22 AM
 NON-INVASIVE VENTILATION - START [**2117-7-26**] 02:04 PM
 EKG - At [**2117-7-26**] 02:22 PM
 INVASIVE VENTILATION - START [**2117-7-26**] 03:16 PM
   -Called lab at [**Hospital1 **] [**Location (un) 78**]; Ucx negative, final read. Blood cx NGTD,
   final read tomorrow.
   -Called [**Initials (NamePattern4) 7154**] [**Last Name (NamePattern4) 78**] ([**Telephone/Fax (1) 7155**]) for recent Rx:
       -Combivent (Albuterol +Ipratropium) 1 puff QID last filled [**2117-7-6**]
       -Advair (Fluticasone + Salmeterol)2 puffs [**Hospital1 **] last filled [**2117-7-8**]
       -Flovent HFA last filled [**2116-12-2**]
       -Clonazepam 0.5mg PO BID PRN last filled [**6-/2116**]
   - Respiratory Distress at 13:45. Tachycardia in 120s w/ SBP 140-170s
   (max 180s) and desats to 87% on face mask. Given 2 mg IV morphine, 0.5
   mg Ativan, started on nitro gtt and bipap. Repeat EKG unchanged. CXR
   negative for pulm edema. ABG pH 7.27 pCO2 54 pO2 428 HCO3 26. Pt
   fatigued on bipap and re-intubated at ~ 15:00.
   - TTE: LA/LV normal size. There is moderate regional left ventricular
   systolic dysfunction with severe hypokinesis of the distal half of the
   septum and anterior walls, distal lateral and inferior walls with a
   mild apical left ventricular aneurysm/akinesis. The remaining segments
   contract normally (LVEF = 30 %). No masses or thrombi in the left
   ventricle. Right ventricular cavity size is normal with focal akinesis
   of the apical free wall. The mitral valve appears structurally normal
   with trivial mitral regurgitation.
   IMPRESSION: Normal left ventricular cavity size with extensive regional
   left and right ventricular systolic dysfunction c/w CAD (mid-LAD
   distribution).
   - Chem 7 at 4 pm stable. CE at 4pm trending down
   - Plan for cath tomorrow. NPO after MN
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Levofloxacin - [**2117-7-26**] 07:42 AM
   Infusions:
   Fentanyl (Concentrate) - 50 mcg/hour
   Midazolam (Versed) - 3 mg/hour
   Heparin Sodium - 700 units/hour
   Other ICU medications:
   Metoprolol - [**2117-7-26**] 01:40 PM
   Morphine Sulfate - [**2117-7-26**] 02:00 PM
   Lorazepam (Ativan) - [**2117-7-26**] 02:45 PM
   Other medications:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2117-7-27**] 06:55 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.7
C (99.8
   Tcurrent: 37.1
C (98.8
   HR: 87 (63 - 116) bpm
   BP: 98/52(66) {94/45(62) - 160/90(115)} mmHg
   RR: 14 (7 - 24) insp/min
   SpO2: 97%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 57.5 kg (admission): 57.5 kg
   Height: 70 Inch
             Total In:
                                                                    836 mL
                                                                    235 mL
   PO:
             TF:
                                                                    267 mL
                                                                     90 mL
   IVF:
                                                                    569 mL
                                                                    145 mL
   Blood products:
   Total out:
                                                                  1,140 mL
                                                                    360 mL
   Urine:
                                                                    990 mL
                                                                    360 mL
   NG:
                                                                    150 mL
   Stool:
   Drains:
   Balance:
                                                                   -304 mL
                                                                   -125 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 500 (500 - 500) mL
   Vt (Spontaneous): 1,778 (1,124 - 1,778) mL
   PS : 8 cmH2O
   RR (Set): 14
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 30%
   RSBI: 35
   PIP: 29 cmH2O
   Plateau: 16 cmH2O
   SpO2: 97%
   ABG: 7.44/49/120/28/8
   Ve: 7 L/min
   PaO2 / FiO2: 400
   Physical Examination
   GENERAL: thin, intubated, sedated
   HEENT: NCAT. Sclera anicteric. PERRL 1mm, EOM not assessed. Conjunctiva
   were pink, no pallor or cyanosis of the oral mucosa. MM dry. No
   xanthalesma.
   NECK: Supple with JVP <10, no HJR
   CARDIAC: Distant heart sounds, no rubs/gallops, II/VI Systolic murmur
   LUNGS: CTAB with poor/moderate air movement
   ABDOMEN: Soft, NTND.  No HSM or tenderness. Abd aorta not enlarged by
   palpation. No abdominial bruits.  Decreased BS.
   EXTREMITIES: No c/c/e. No femoral bruits. Right femoral bruising from
   prev. line site, + sm oozing C/D/I. Warm, cap refill 2 sec
   SKIN: Pink area beneath coccyx, no skin breakdown.
   PULSES:
   Right:DP 2+ PT 2+
   Left: DP 2+ PT 2+
   Labs / Radiology
   150 K/uL
   11.2 g/dL
   127 mg/dL
   1.1 mg/dL
   28 mEq/L
   4.8 mEq/L
   34 mg/dL
   107 mEq/L
   139 mEq/L
   32.4 %
   11.2 K/uL
        [image002.jpg] ABG [**7-27**]: 7.44 / 49 / 120 / 34 / 8
                             [**2117-7-25**]  05:06 PM
                             [**2117-7-26**]  04:17 AM
                             [**2117-7-26**]  04:49 AM
                             [**2117-7-26**]  09:14 AM
                             [**2117-7-26**]  12:48 PM
                             [**2117-7-26**]  02:06 PM
                             [**2117-7-26**]  03:44 PM
                             [**2117-7-26**]  05:24 PM
                             [**2117-7-27**]  05:19 AM
                             [**2117-7-27**]  05:34 AM
   WBC
   13.3
   11.2
   Hct
   34.9
   32.4
   Plt
   154
   150
   Cr
   1.0
   1.1
   1.1
   TropT
   0.15
   TCO2
   22
   26
   27
   30
   26
   29
   34
   Glucose
   123
   144
   127
   Other labs: PT / PTT / INR:13.4/82.8/1.1, CK / CKMB /
   Troponin-T:330/11/0.15, ALT / AST:22/43, Alk Phos / T Bili:77/0.5,
   Differential-Neuts:94.4 %, Lymph:2.9 %, Mono:2.1 %, Eos:0.4 %, Lactic
   Acid:1.8 mmol/L, Albumin:3.5 g/dL, LDH:344 IU/L, Ca++:9.0 mg/dL,
   Mg++:2.4 mg/dL, PO4:3.2 mg/dL
   UCx: No growth. BCx: Pending.
   Assessment and Plan
 74 yo M w/ with systolic heart failure and respiratory failure who
   required reintubation yesterday.
   # CORONARIES:  Elevated cardiac enzymes continue to trend down,
   suggesting no current ischemia due to new vessel occlusion or demand
   ischemia.  Patient denied chest pain yesterday. Echo final read shows
   nl LV size, extensive regional left and right ventricular systolic
   dysfunction c/w CAD with LVEF 30%.
   - Continue Plavix 75 mg, ASA 325 mg, simvastatin 80 mg daily
   - Continue heparin gtt
   - Hold ACEi for now
   - repeat EKG daily
   - PCI today ideal if pt amenable. Appeared not to want yesterday;
   rediscuss w/ pt today.
   - if pt refuses PCI, get pulm consult for help extubating
   .
   # PUMP:  Systolic heart failure with LVEF 30%. Volume status appears
   euvolemic-hypovolemic, No evidence of overload suggested by absence of
   crackles or peripheral edema on exam, maintaining good end organ
   perfusion as evidenced by 40-50cc/hr UOP and warm extremities.  BP
   currently stable.
   - cont IVF boluses as needed, as indicated by exam/CXR to avoid
   overload or hypovolemia
 goal even today
   .
   # RHYTHM: 1st degree AV block, sinus.
   -          Cont to monitor on tele
   -          -Tachy yesterday- continue metoprolol 2.5mg as needed
   .
   # Respiratory failure/COPD: Patient has severe COPD with hyperinflation
   on CXR and continued to have respiratory distress; was not able to
   tolerate extubation yesterday.  No evidence of edema, PNA, congestion
   on CXR yesterday. ABG at the time was pH 7.27/54/428 on 100% NRB,
   suggesting hypercarbic respiratory acidosis.
   - Remain intubated in setting of severe COPD w/ failed extubation
   yesterday.
   - Trial of pressure support this afternoon.
   - Follow ABGs
   - Cont therapy for COPD flare (nebs, abx day [**5-25**]); continue PO steroids
   .
   # Hypertension: Patient was hypertensive and tachycardic yesterday
   after extubation and during respiratory distress.
   -Continue IV metoprolol 25mg TID as needed
   .
   # Acid-base disturbance: Patient
s ABG yesterday during respiratory
   distress c/w respiratory acidosis. Now stabilizing with ABG showing no
   acidosis, but continues hypercarbia, likely due to CO2 retention in the
   setting of COPD.
   - serial ABGs
   - follow lytes, gap
   .
   # Psych: Pharmacy showed no Ativan Rx for past 1 yr.
   -If extubated, consider 0.5 Ativan for agitation
   .
   # Skin care: possible developing ulcer below coccyx, monitor for now
   ICU Care
   Nutrition: restart TF today, has OGT
   Glycemic Control:  HISS
   Lines:
   18 Gauge - [**2117-7-24**] 04:34 PM
   Arterial Line - [**2117-7-25**] 12:33 AM
   20 Gauge - [**2117-7-26**] 06:09 PM
   Prophylaxis:
   DVT: heparin gtt
   Stress ulcer:
   VAP:  VAP bundle
   Comments:
   Communication:  Comments: brother, mother but no official HCP/POA
   [**Name (NI) 129**] status: full
   Disposition:CCU
   ------ Protected Section ------
   Cardiology Teaching Physician Note
   On this day I saw, examined and was physically present with the
   resident / fellow for the key portions of the services provided. I
   agree with the above note and plans.
   I would add the following remarks:
   History
   per housestaff
   nothing to add
   Physical Examination
   per housestaff
   nothing to add
   Medical Decision Making
   per housestaff
   nothing to add
   Above discussed extensively with patient.
   Total time spent on patient care: 60 minutes of critical care time.
   Additional comments:
   Failed attempt at extubation - hypertension., tachycardia , no air
   movement
   have discussed cath with him given concern that ischemia is impeding
   weaning. he is not interested in this option at proesent
   will need to readdress with him later today.
   will also discuss longer term considerations if he is unwilling to
   proceed with cath - ie comfort measures vs trach
   ------ Protected Section Addendum Entered By:[**Name (NI) **] [**Name (NI) 1584**]
   on:[**2117-7-27**] 09:18 ------

2117-08-05 06:57:00 Physician Resident Progress Note
TITLE:
   Chief Complaint: Respiratory support
   24 Hour Events:
   - IP saw patient yesterday, plan Trach/PEG for Friday, [**2117-8-6**] in OR.
   Time TBD.
   - PICC pending from yesterday
   - Patient switched to PS briefly yesterday.  ABG after switch to PS
   showed baseline pCO2.  Tolerated this initially but became agitated,
   requiring Ativan and increase in Versed to 4mg/hr, so switched back to
   AC.
   -CXR from yesterday final read: A faint left lower lobe opacity has
   improved compared to [**2117-8-2**]. A faint opacity slightly more superior in
   the left lower lobe persists. It is unclear whether these opacities
   represent bronchopneumonia or atelectasis. No focal areas of definite
   consolidation are evident. Persistent severe flattening of the
   hemidiaphragms consistent with emphysema is stable.
   - Less hypotensive overnight so not requiring IVF bolus
   - Prednisone tapered to 40mg daily
   - This morning patient easily arousable and trying to communicate,
   denies any pain or discomfort
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Vancomycin - [**2117-8-4**] 08:00 PM
   Cefipime - [**2117-8-5**] 06:04 AM
   Infusions:
   Fentanyl (Concentrate) - 50 mcg/hour
   Midazolam (Versed) - 4 mg/hour
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2117-8-4**] 08:16 PM
   Other medications:
   Changes to medical and family history:
   Review of systems: Review of systems is unchanged from admission
   Flowsheet Data as of  [**2117-8-5**] 06:41 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.1
C (98.8
   Tcurrent: 35.8
C (96.5
   HR: 63 (59 - 106) bpm
   BP: 105/37(60) {84/30(44) - 146/71(100)} mmHg (current 122/39)
   RR: 13 (8 - 29) insp/min
   SpO2: 100% on vent
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 63 kg (admission): 57.5 kg
   Height: 70 Inch
             Total In:
                                                                  1,968 mL
                                                                     96 mL
   PO:
             TF:
                                                                  1,200 mL
                                                                     12 mL
   IVF:
                                                                    608 mL
                                                                     84 mL
   Blood products:
   Total out:
                                                                  1,900 mL
                                                                    340 mL
   Urine:
                                                                  1,900 mL
                                                                    340 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                     68 mL
                                                                   -244 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 400 (400 - 400) mL
   RR (Set): 14
   PS : 10 cmH2O
   RR (Spontaneous): 0 (breathing about 23-24 times/min this am)
   PEEP: 5 cmH2O
   FiO2: 40%
   PIP: 20 cmH2O
   SpO2: 100%
   ABG: 7.42/57/158/38/10 on PS yesterday
   Ve: 6.5 L/min
   PaO2 / FiO2: 395
   Physical Examination
   GENERAL: thin, intubated, lightly sedated
   HEENT: NCAT. Sclera anicteric. PERRL 1mm, EOM not assessed. Conjunctiva
   were pink, no pallor or cyanosis of the oral mucosa. MM dry including
   lips.
   NECK: Supple with JVP <10
   CARDIAC: Distant heart sounds, no rubs/gallops/murmurs audible
   LUNGS: CTAB with poor/moderate air movement. No wheezes or crackles
   auscultated
   ABDOMEN: Soft, NTND.  No HSM or tenderness. Abd aorta not enlarged by
   palpation. No abdominial bruits.  BS present.
   EXTREMITIES: No c/c/e. Warm, cap refill 2 sec
   SKIN: Bruising B upper extremity, Left Elbow with minimal skin
   irritation/breakdown, Sacrum not assessed
   PULSES:  Right:DP 2+ PT 2+, Left: DP 2+ PT 2+
   Neurologic: Responds to: Verbal commands (squeeze fingers) Movement:
   Not assessed, Tone: Not assessed
   Labs / Radiology
   190 K/uL
   9.6 g/dL
   98 mg/dL
   0.6 mg/dL
   38 mEq/L
   4.5 mEq/L
   21 mg/dL
   101 mEq/L
   141 mEq/L
   29.1 %
   10.3 K/uL
        [image002.jpg]
                             [**2117-8-2**]  04:45 AM
                             [**2117-8-2**]  04:46 AM
                             [**2117-8-2**]  10:22 AM
                             [**2117-8-2**]  11:43 PM
                             [**2117-8-3**]  04:34 AM
                             [**2117-8-3**]  11:29 AM
                             [**2117-8-4**]  04:00 AM
                             [**2117-8-4**]  11:06 AM
                             [**2117-8-4**]  11:26 AM
                             [**2117-8-5**]  05:26 AM
   WBC
   11.1
   16.0
   20.1
   10.3
   Hct
   30.8
   33.5
   31.5
   29.1
   Plt
   151
   156
   198
   190
   Cr
   0.7
   0.8
   0.7
   0.6
   TCO2
   36
   38
   39
   40
   42
   38
   Glucose
   106
   173
   95
   98
   Other labs: PT / PTT / INR:12.7/37.5/1.1, CK / CKMB /
   Troponin-T:66/11/0.04, ALT / AST:22/43, Alk Phos / T Bili:77/0.5,
   Differential-Neuts:93.6 %, Lymph:2.7 %, Mono:3.2 %, Eos:0.4 %, Lactic
   Acid:1.0 mmol/L, Albumin:3.5 g/dL, LDH:344 IU/L, Ca++:8.4 mg/dL,
   Mg++:2.5 mg/dL, PO4:2.9 mg/dL
   Fingersticks: 117-169
   Sputum culture
 coag + Staph aureus (prelim)
   Urine culture [**8-2**]
 negative (final)
   Blood culture [**8-2**]
 NGTD
   CXR from today pending
   Assessment and Plan
   74 yo M w/ with systolic heart failure and respiratory failure who has
   failed extubation x2; clean cath on [**2117-7-29**], now with resolving
   ventilator-associated pneumonia.  Sputum culture has grown coag+ Staph
   aureus.  Trach/PEG planned for tomorrow.
   # Presumed Ventilator-Associated Pneumonia: He has been afebrile since
   [**8-2**] with coagulase positive Staph Aureus in sputum.  On Vanc/Cefepime
   (Day #[**4-28**]) for VAP. Received ID approval for antibiotics.  Leukocytosis
   resolving today (WBC 10.3 today from 20.1 yesterday).
   - Continue Vanc/Cefepime (Day [**4-28**]) per ID recs, consider double
   pseudomonas coverage if patient worsens
   - FU final read Sputum cultures, sensitivities
   - Continue to follow Blood cultures
   - FU final CXR today
   - PICC today
   Respiratory failure/COPD: Patient has failed to tolerate extubations X2
   despite strict BP control with Nipride gtt and Anxiety management with
   Ativan. Likely etiology is severe emphysema/COPD, and second extubation
   may have been complicated by developing VAP.   Now being treated with
   Vanc/Cefepime.   Tolerated PS briefly yesterday, switched to AC where
   he appeared more comfortable. Appears comfortable this AM with AC (400,
   14, 5, 40%) this AM. Auto-PEEP <5 this am.  ABG on pressure support
   yesterday (7.42/57/158/38/10).
   - TRACH/PEG with IP tomorrow; NPO midnight before procedure
   - Change patient to pressure support today, FU to see how patient
   tolerates
   - Check ABG on pressure support today
   - Continue Vanc/Cefepime (Day #[**4-28**]) as above
   - Maintain pH 7.36-7.40 range, pCO2 in low 50
s to maintain drive to
   breathe.
   - Cont therapy for COPD flare (nebs).
   - Prednisone tapered to 40mg daily, will continue to taper slowly
   .
   # HYPOTENSION: Patient is normotensive this morning with blood pressure
   stabilizing over last 24 hours.  No need for fluid bolus yesterday.
   Good urine output.
   - Give 250cc fluid bolus as needed for hypotensive episodes, goal MAP >
   55-60
   - Continue Metropolol to 12.5 mg [**Hospital1 **]
   - Continue to hold Lisinopril until SBP stabilizes >100, without
   episodes of hypotension.   Will consider adding this back if patient
   becomes hypertensive as he has been in the past
   .
   #Hyperglycemia: Fingersticks show blood sugar is more controlled at
   117-169. Lantus increased to 4U from 2U two days ago, appears to be
   controlling sugars well.
   - Continue to follow fingersticks and will adjust accordingly
   .
   # CORONARIES:  No apparent dx at this time
   - ASA 81mg and simvastatin 20mg daily
   # PUMP:  Volume status euvolemic, no evidence of overload on exam, no
   longer in heart failure.  I/O
s even yesterday and goal reached.
   - goal even today
   .
   # RHYTHM: Borderline 1st degree AV block on today
s ECG, SR;
   -  Cont to monitor on telemetry
   . # ANXIETY: Increased Versed to 4mg/hr after agitation yesterday
   afternoon.   Fentanyl still at 50mcg/hr. Pt with episode of agitation
   overnight which reguired ativan.  Has known anxiety disorder, likely
   contributing agitation and BP lability.
   .  -Continue 0.5-1.0 mg boluses of Ativan PRN for agitation
   # Skin care: possible developing ulcer below coccyx,
   -monitor for now
   -turned q 2-3hr, applying skin care
   ICU Care
   Nutrition: Tube feeds: Fibersource HN (Full) - [**2117-7-31**] 01:28 AM 40
   mL/hour, will make npo at midnight
   Glycemic Control:  Insulin sliding scale plus glargine qhs
   Lines:
   18 or 20 Gauge
 Left Arm
   20 Gauge - [**2117-7-30**] 03:00 AM, Left Wrist
   Prophylaxis:
   DVT: SC heparin
   Bowel: Senna, colace for bowel regimen
   Stress ulcer: Lansoprazole
   VAP:  VAP bundle
   Communication:  Comments:  with brother [**First Name4 (NamePattern1) **]
   [**Last Name (NamePattern1) 129**] status: full
   Disposition:CCU for now
   ------ Protected Section ------
   Cardiology Teaching Physician Note
   On this day I saw, examined and was physically present with the
   resident / fellow for the key portions of the services provided. I
   agree with the above note and plans.
   I have also reviewed the notes of Dr(s). [**Name (NI) **].
   I would add the following remarks:
   Medical Decision Making
   Respiratory status tenuous.  Trach tomorrow.  Patient care time 30
   minutes.
   ------ Protected Section Addendum Entered By:[**Name (NI) **] [**Last Name (NamePattern1) **], MD
   on:[**2117-8-5**] 11:24 ------

2117-08-06 07:02:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
   - PICC placed, IR confirmed position.
   - Final sputum culture grew MSSA, switched to nafcillin 2gm IV q6h (on
   day [**5-28**]) and continued on cefepime
   - Yesterday, IP confirmed that he will get Trach/PEG today.  He is an
   add-on case for the OR so time is still TBD.  Consent obtained and in
   chart.
   - BP increased to 100-130
s/70-90
s yesterday afternoon with increased
   urine output, ?self-diuresing some of the fluid given over the last few
   days.  Then overnight his blood pressures dropped to systolic 70's to
   80's. Evening lopressor held and patient was bolused 250cc NS.
   - HCT yesterday afternoon was 28.9, down from 29.1 yesterday morning.
   This morning Hct is 26.6.
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Vancomycin - [**2117-8-5**] 09:15 AM
   Nafcillin - [**2117-8-6**] 06:00 AM
   Cefipime - [**2117-8-6**] 06:30 AM
   Infusions:
   Midazolam (Versed) - 3 mg/hour
   Fentanyl (Concentrate) - 75 mcg/hour
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2117-8-5**] 08:14 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2117-8-6**] 06:35 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.3
C (97.4
   Tcurrent: 36.1
C (97
   HR: 96 (67 - 100) bpm
   BP: 85/53(60) {68/38(49) - 132/95(98)} mmHg
   RR: 14 (7 - 28) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 62 kg (admission): 57.5 kg
   Height: 70 Inch
             Total In:
                                                                    809 mL
                                                                    570 mL
   PO:
             TF:
                                                                    298 mL
   IVF:
                                                                    461 mL
                                                                    520 mL
   Blood products:
   Total out:
                                                                  2,020 mL
                                                                    580 mL
   Urine:
                                                                  2,020 mL
                                                                    580 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -1,211 mL
                                                                    -10 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST
   Vt (Set): 400 (400 - 400) mL
   Vt (Spontaneous): 560 (560 - 560) mL
   PS : 10 cmH2O
   RR (Set): 14
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 40%
   PIP: 24 cmH2O
   Plateau: 16 cmH2O
   Compliance: 36.4 cmH2O/mL
   SpO2: 100%
   ABG: No recent (last [**8-4**])
   Ve: 6.4 L/min
   Physical Examination
   GENERAL: thin, intubated, lightly sedated
   HEENT: NCAT. Sclera anicteric. PERRL 1mm, EOM not assessed. Conjunctiva
   were pink, no pallor or cyanosis of the oral mucosa. MM dry including
   lips.
   NECK: Supple with JVP <10
   CARDIAC: Distant heart sounds, no rubs/gallops/murmurs audible
   LUNGS: CTAB with poor/moderate air movement. No wheezes or crackles
   auscultated
   ABDOMEN: Soft, NTND.  No HSM or tenderness. Abd aorta not enlarged by
   palpation. No abdominial bruits.  BS present.
   EXTREMITIES: No c/c/e. Warm, cap refill 2 sec
   SKIN: Bruising B upper extremity, Left Elbow with minimal skin
   irritation/breakdown, Hematoma in penile area and scrotum stable since
   yesterday, and slightly improved
   PULSES:  Right: DP 2+ PT 2+, Left: DP 2+ PT 2+
   Neurologic: Responds to: Verbal commands (squeeze fingers) Movement:
   Not assessed, Tone: Not assessed
   Labs / Radiology
   161 K/uL
   8.9 g/dL
   81 mg/dL
   0.8 mg/dL
   36 mEq/L
   4.1 mEq/L
   23 mg/dL
   103 mEq/L
   143 mEq/L
   26.6 %
   8.8 K/uL
        [image002.jpg]
                             [**2117-8-2**]  10:22 AM
                             [**2117-8-2**]  11:43 PM
                             [**2117-8-3**]  04:34 AM
                             [**2117-8-3**]  11:29 AM
                             [**2117-8-4**]  04:00 AM
                             [**2117-8-4**]  11:06 AM
                             [**2117-8-4**]  11:26 AM
                             [**2117-8-5**]  05:26 AM
                             [**2117-8-5**]  04:34 PM
                             [**2117-8-6**]  04:15 AM
   WBC
   16.0
   20.1
   10.3
   8.8
   Hct
   33.5
   31.5
   29.1
   28.9
   26.6
   Plt
   156
   198
   190
   161
   Cr
   0.8
   0.7
   0.6
   0.8
   TCO2
   38
   39
   40
   42
   38
   Glucose
   173
   95
   98
   81
   Other labs: PT / PTT / INR:13.2/47.2/1.1, CK / CKMB /
   Troponin-T:66/11/0.04, ALT / AST:22/43, Alk Phos / T Bili:77/0.5,
   Differential-Neuts:93.6 %, Lymph:2.7 %, Mono:3.2 %, Eos:0.4 %, Lactic
   Acid:1.0 mmol/L, Albumin:3.5 g/dL, LDH:344 IU/L, Ca++:8.0 mg/dL,
   Mg++:2.4 mg/dL, PO4:3.7 mg/dL
   Blood cx ([**8-2**])
 NGTD
Sputum cx ([**8-2**])
 grew Staph aureus
CLINDAMYCIN-----------<=0.25 S
ERYTHROMYCIN----------<=0.25 S
GENTAMICIN------------ <=0.5 S
OXACILLIN-------------   0.5 S
TRIMETHOPRIM/SULFA---- <=0.5 S
   Fingersticks: 104-156
   - CXR yesterday showed ETT and NG tube unchanged.  There is massive
   overinflation and loss of parenchymal structure, consistent with
   pulmonary emphysema. A minimal linear atelectasis has newly occurred at
   the left lung base. Otherwise, unchanged.
   Assessment and Plan
   74 yo M w/ with systolic heart failure and respiratory failure who has
   failed extubation x2; clean cath on [**2117-7-29**], now with resolving
   ventilator-associated pneumonia.  Sputum culture has grown coag+ Staph
   aureus.  Trach/PEG planned for today.   PICC placed yesterday for
   antibiotics and sedation.
   # Presumed Ventilator-Associated Pneumonia: He has been afebrile since
   [**8-2**] with MSSA on sputum culture.  On Nafcillin/Cefepime (Day #[**5-28**]) for
   VAP. Leukocytosis has resolved today (WBC 8.8 today from 10.3 yesterday
   and 20.1 the day before).
   - Continue Nafcillin/Cefepime (Day [**5-28**]), consider double pseudomonas
   coverage if patient worsens.
   - Continue to follow Blood cultures
   - FU today
s CXR
   Respiratory failure/COPD: Patient has failed to tolerate extubations X2
   despite strict BP control with Nipride gtt and Anxiety management with
   Ativan. Likely etiology is severe emphysema/COPD, and second extubation
   may have been complicated by developing VAP.   Now being treated with
   Nafcillin/Cefepime.   Kept on AC yesterday where he appeared more
   comfortable. Appears comfortable this AM with AC (400, 14, 5, 40%) this
   AM. Auto-PEEP <5 this am
   - TRACH/PEG with IP today; Has been npo since midnight
   - Will keep patient on AC ventilation today for procedure
   - Check VBG on AC today
   - Continue Nafcillin/Cefepime (Day #[**5-28**]) as above
   - Maintain pH 7.36-7.40 range, pCO2 in low 50
s to maintain drive to
   breathe.
   - Cont therapy for COPD flare (nebs).
   - Prednisone tapered to 40mg daily, will continue to taper slowly
   - Trach collar trials today
   - speech/swallow eval tomorrow ([**8-6**])
   .
   # ANEMIA: Patient with low Hct this am (26.6) and has been trending
   down over last 3-4 days.  Some of it may be dilution as patient has
   been self-diuresing and has been given NS over the last 3-4 days, and
   WBC and platelets have been trending down as well. Guaic negative
   - Type and screen this am in preparation for procedure
   - Hemolysis labs
   - Transfuse if Hct < 21
   - Hold labs next AM to save blood as they have been normal
   .
   # HYPOTENSION: Patient slightly hypotensive overnight and given fluid
   bolus.  Overall negative 1.2L yesterday with substantial urine output.
   - Give 250cc fluid bolus as needed for hypotensive episodes, goal MAP >
   55-60
   - Held Metropolol last night, but will continue with 12.5 mg [**Hospital1 **] dosing
   if pressures stabilize
   - Continue to hold Lisinopril until SBP stabilizes >100, without
   episodes of hypotension.
   - Monitor UOP as sign for fluid boluses
   .
   #HYPERGLYCEMIA: Fingersticks show blood sugar is more controlled at
   104-156. Lantus increased to 4U from 2U three days ago, appears to be
   controlling sugars well.  Given half-dose of lantus last night b/c NPO
   for procedure.
   - Continue to follow fingersticks and will adjust accordingly
   - Decrease amount of fingersticks as FSBS
s have been low
   .
   # CORONARIES:  No apparent dx at this time
   - ASA 81mg and simvastatin 20mg daily
   # PUMP:  Volume status euvolemic, no evidence of overload on exam, no
   longer in heart failure.  I/O
s negative yesterday and goal was to be
   even.
   - goal even today and patient will likely be given IVF during procedure
   .
   # RHYTHM: Borderline 1st degree AV block on today
s ECG, SR;
   -  Cont to monitor on telemetry
   . # ANXIETY: Versed decreased to 3mg/hr, Fentanyl increased to
   75mcg/hr.  Has known anxiety disorder, likely contributing agitation
   and BP lability.
    -Continue 0.5-1.0 mg boluses of Ativan PRN for agitation
   # Skin care: possible developing ulcer below coccyx, and now with
   substantial hematoma around penis and scrotum
   - Monitor for now, have elevated scrotum to encourage drainage
   - Turned q 2-3hr, applying skin care
   ICU Care
   Nutrition: Tube feeds: Fibersource HN (Full) - [**2117-7-31**] 01:28 AM 40
   mL/hour, but has been npo since midnight; touch base with IR to assess
   restarting tube feeds after peg
   Glycemic Control:  Insulin sliding scale plus glargine qhs (decreased
   glargine to 2units last pm in prep for npo status)
   Lines:  20 Gauge - [**2117-7-30**] 03:00 AM, Left Wrist
   Prophylaxis:
   DVT: SC heparin
   Bowel: Senna, colace for bowel regimen
   Stress ulcer: Lansoprazole
   VAP:  VAP bundle
   Communication:  with brother [**First Name4 (NamePattern1) **]
   [**Last Name (NamePattern1) 129**] status: Full
   Disposition: CCU for now ; contact case management today
   ------ Protected Section ------
   Cardiology Teaching Physician Note
   On this day I saw, examined and was physically present with the
   resident / fellow for the key portions of the services provided. I
   agree with the above note and plans.
   I have also reviewed the notes of Dr(s). [**Name (NI) 7264**].
   I would add the following remarks:
   Medical Decision Making
   Trach/PEG today.  Revisit the issue of whether his metabolic alkalosis
   is out of proportion to what one would expect for compensation for his
   elevated PCO2.  Patient care 30 minutes.
   ------ Protected Section Addendum Entered By:[**Name (NI) **] [**Last Name (NamePattern1) **], MD
   on:[**2117-8-6**] 09:35 ------

2117-08-07 06:53:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
   Trach/PEG done; start meds through PEG immediately, start tube feeds
   [**2117-8-7**] in the am
   - Iron studies/hemolysis labs show probable iron def anemia, started
   iron
   - D/c'd insulin sliding scale, will only check qAM finger sticks
   - Noon Hct: 26.6- Stable, transfuse if < 21...so OK
   - Speech/Swallow eval on Saturday
   - VBG showed 7.58/68/39/42/11 - ?chronic metabolic alkalosis and acute
   respiratoy acidosis, metabolic alkalosis could be [**2-22**] contraction
   alkalosis, sent urine lytes to evaluate.  [**Month (only) 11**] need to ventilate more to
   compensate for resp acidosis.
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Vancomycin - [**2117-8-5**] 09:15 AM
   Nafcillin - [**2117-8-7**] 12:00 AM
   Cefipime - [**2117-8-7**] 05:05 AM
   Infusions:
   Fentanyl (Concentrate) - 150 mcg/hour
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2117-8-6**] 08:00 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2117-8-7**] 06:33 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.4
C (99.4
   Tcurrent: 37.1
C (98.7
   HR: 87 (84 - 119) bpm
   BP: 109/55(68) {66/39(46) - 155/95(99)} mmHg
   RR: 14 (8 - 22) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 59.5 kg (admission): 57.5 kg
   Height: 70 Inch
             Total In:
                                                                  1,646 mL
                                                                    220 mL
   PO:
             TF:
   IVF:
                                                                  1,596 mL
                                                                    220 mL
   Blood products:
   Total out:
                                                                  1,970 mL
                                                                  1,000 mL
   Urine:
                                                                  1,970 mL
                                                                  1,000 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -324 mL
                                                                   -780 mL
   Respiratory support
   O2 Delivery Device: Tracheostomy tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 450 (400 - 450) mL
   Vt (Spontaneous): 770 (770 - 770) mL
   RR (Set): 14
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 9
   PIP: 18 cmH2O
   Plateau: 10 cmH2O
   SpO2: 100%
   ABG: ////
   Ve: 7.8 L/min
   Physical Examination
   GENERAL: thin, tracheostomy in place, lightly sedated
   HEENT: NCAT. Sclera anicteric. PERRL 1mm, EOM not assessed. Conjunctiva
   were pink, no pallor or cyanosis of the oral mucosa. MM dry including
   lips.
   NECK: Supple with JVP <10
   CARDIAC: Distant heart sounds, no rubs/gallops/murmurs audible
   LUNGS: CTAB with poor/moderate air movement. No wheezes or crackles
   auscultated
   ABDOMEN: Peg in tact; Soft, NTND.  No HSM or tenderness. Abd aorta not
   enlarged by palpation. No abdominial bruits.  BS present.
   EXTREMITIES: No c/c/e. Warm, cap refill 2 sec
   SKIN: Bruising B upper extremity, Left Elbow with minimal skin
   irritation/breakdown, Hematoma in penile area and scrotum stable since
   yesterday, and slightly improved
   PULSES:  Right: DP 2+ PT 2+, Left: DP 2+ PT 2+
   Neurologic: Responds to: Verbal commands (squeeze fingers) Movement:
   Not assessed, Tone: Not assessed
   Labs / Radiology
                                     pH
                                    7.38
                                    pCO2
                                     68
                                     pO2
                                     39
                                    HCO3
                                     42
                                   BaseXS
                                     11
   161 K/uL
   8.9 g/dL
   81 mg/dL
   0.8 mg/dL
   36 mEq/L
   4.1 mEq/L
   23 mg/dL
   103 mEq/L
   143 mEq/L
   32
   8.8 K/uL
        [image002.jpg]
                             [**2117-8-3**]  04:34 AM
                             [**2117-8-3**]  11:29 AM
                             [**2117-8-4**]  04:00 AM
                             [**2117-8-4**]  11:06 AM
                             [**2117-8-4**]  11:26 AM
                             [**2117-8-5**]  05:26 AM
                             [**2117-8-5**]  04:34 PM
                             [**2117-8-6**]  04:15 AM
                             [**2117-8-6**]  12:21 PM
                             [**2117-8-6**]  06:06 PM
   WBC
   16.0
   20.1
   10.3
   8.8
   Hct
   33.5
   31.5
   29.1
   28.9
   26.6
   26.6
   32
   Plt
   156
   198
   190
   161
   Cr
   0.8
   0.7
   0.6
   0.8
   TCO2
   40
   42
   38
   Glucose
   173
   95
   98
   81
   Other labs: PT / PTT / INR:13.2/47.2/1.1, CK / CKMB /
   Troponin-T:66/11/0.04, ALT / AST:22/43, Alk Phos / T Bili:77/0.5,
   Differential-Neuts:93.6 %, Lymph:2.7 %, Mono:3.2 %, Eos:0.4 %, Lactic
   Acid:1.0 mmol/L, Albumin:3.5 g/dL, LDH:226 IU/L, Ca++:8.0 mg/dL,
   Mg++:2.4 mg/dL, PO4:3.7 mg/dL
   Iron: 21
   calTIBC: 186
   Hapto: 234
   Ferritn: 155
   TRF: 143
   Portable AP Chest:
   Lungs are severely hyperinflated due to emphysema, free of focal
   consolidation.
   No pleural effusion. Normal cardiomediastinal silhouette. ET tube tip
   with the chin down, 3.5 cm from the carina
   is in standard placement. Nasogastric tube passes below the diaphragm
   and out of view. No pneumothorax
   or appreciable pleural effusion.
   Assessment and Plan
   74 yo M w/ with systolic heart failure and respiratory failure who has
   failed extubation x2; clean cath on [**2117-7-29**], now with resolving
   ventilator-associated pneumonia.  Sputum culture has grown coag+ Staph
   aureus.  Trach/PEG placed yesterday.
   # Presumed Ventilator-Associated Pneumonia: He has been afebrile since
   [**8-2**] with MSSA on sputum culture.  On Nafcillin/Cefepime (Day #[**5-28**]) for
   VAP. Leukocytosis has resolved today (WBC 8.8 today from 10.3 yesterday
   and 20.1 the day before).
   - Continue Nafcillin/Cefepime (Day [**6-28**]), consider double pseudomonas
   coverage if patient worsens.
   - Continue to follow Blood cultures
   Respiratory failure/COPD: Patient has failed to tolerate extubations X2
   despite strict BP control with Nipride gtt and Anxiety management with
   Ativan. Likely etiology is severe emphysema/COPD, and second extubation
   may have been complicated by developing VAP.   Now being treated with
   Nafcillin/Cefepime.   Kept on AC where he appeared more comfortable.
   Appears comfortable this AM with AC (400, 14, 5, 40%) this AM.
   Auto-PEEP <5 this am
   - TRACH/PEG done
   - Will keep patient on AC ventilation today for procedure
   - Continue Nafcillin/Cefepime (Day #[**5-28**]) as above
   - Maintain pH 7.36-7.40 range, pCO2 in low 50
s to maintain drive to
   breathe.
   - Cont therapy for COPD flare (nebs).
   - Prednisone tapered to 40mg daily, will continue to taper slowly
   - Trach collar trials today
   - speech/swallow eval tomorrow ([**8-6**])
   .
   # ANEMIA: Patient with low Hct 30, which has come up slightly from
   previous day (26.6).  Some of it may be dilution as patient has been
   self-diuresing and has been given NS over the last 3-4 days, and WBC
   and platelets have been trending down as well. Based on iron studies,
   likely secondary to iron deficiency anemia. Guaic negative
   - Type and screen done
   - Transfuse if Hct < 21
   - Hold labs this AM to save blood as they have been normal
   .
   # HYPOTENSION: Patient slightly hypotensive overnight and given fluid
   bolus.  Overall negative 1.2L yesterday with substantial urine output.
   - Give 250cc fluid bolus as needed for hypotensive episodes, goal MAP >
   55-60
   - Held Metropolol last night, but will continue with 12.5 mg [**Hospital1 **] dosing
   if pressures stabilize
   - Continue to hold Lisinopril until SBP stabilizes >100, without
   episodes of hypotension.
   - Monitor UOP as sign for fluid boluses
   .
   #HYPERGLYCEMIA: Fingersticks show blood sugar is more controlled at
   104-156. Lantus increased to 4U from 2U three days ago, appears to be
   controlling sugars well.  Given half-dose of lantus last night b/c NPO
   for procedure.
   - Continue to follow fingersticks and will adjust accordingly
   - Decrease amount of fingersticks as FSBS
s have been low
   .
   # CORONARIES:  No apparent dx at this time
   - ASA 81mg and simvastatin 20mg daily
   # PUMP:  Volume status euvolemic, no evidence of overload on exam, no
   longer in heart failure.  I/O
s negative yesterday and goal was to be
   even.
   - goal even today and patient will likely be given IVF during procedure
   .
   # RHYTHM: Borderline 1st degree AV block on today
s ECG, SR;
   -  Cont to monitor on telemetry
   . # ANXIETY: Versed decreased to 3mg/hr, Fentanyl increased to
   75mcg/hr.  Has known anxiety disorder, likely contributing agitation
   and BP lability.
    -Continue 0.5-1.0 mg boluses of Ativan PRN for agitation
   # Skin care: possible developing ulcer below coccyx, and now with
   substantial hematoma around penis and scrotum
   - Monitor for now, have elevated scrotum to encourage drainage
   - Turned q 2-3hr, applying skin care
   ICU Care
   Nutrition: Tube feeds: Fibersource HN (Full) - [**2117-7-31**] 01:28 AM 40
   mL/hour, but has been npo since midnight; touch base with IR to assess
   restarting tube feeds after peg
   Glycemic Control:  Insulin sliding scale plus glargine qhs (decreased
   glargine to 2units last pm in prep for npo status)
   Lines:  20 Gauge - [**2117-7-30**] 03:00 AM, Left Wrist; PICC in tact
   Prophylaxis:
   DVT: SC heparin
   Bowel: Senna, colace for bowel regimen
   Stress ulcer: Lansoprazole
   VAP:  VAP bundle
   Communication:  with brother [**First Name4 (NamePattern1) **]
   [**Last Name (NamePattern1) 129**] status: Full
   Disposition: CCU for now ; contact case management today

2117-08-08 08:24:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   - Started tube feeds at 1500
   - Trach collar trial today: at 1500 lasted for 15 minutes and patient
   could not tolerate anymore; not enough time to do a blood gas. Changed
   to PSV 12/5 .40 after .
   - Fentanyl gtt was tapered off. Will try another trial tomorrow.
   - Temp of 99.7 today, will monitor
   - D/c'd fentanyl gtt and started on fentanyl boluses prn...will follow
   amount he needs every day and attempt to convert to po medication from
   there
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Vancomycin - [**2117-8-5**] 09:15 AM
   Nafcillin - [**2117-8-8**] 06:00 AM
   Cefipime - [**2117-8-8**] 06:30 AM
   Infusions:
   Other ICU medications:
   Lorazepam (Ativan) - [**2117-8-8**] 01:00 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2117-8-8**] 08:22 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.6
C (99.7
   Tcurrent: 37.3
C (99.2
   HR: 97 (79 - 113) bpm
   BP: 103/52(62) {93/47(59) - 152/95(102)} mmHg
   RR: 20 (12 - 22) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 59.5 kg (admission): 57.5 kg
   Height: 70 Inch
             Total In:
                                                                    872 mL
                                                                    568 mL
   PO:
             TF:
                                                                     80 mL
                                                                    234 mL
   IVF:
                                                                    792 mL
                                                                    334 mL
   Blood products:
   Total out:
                                                                  2,780 mL
                                                                    530 mL
   Urine:
                                                                  2,780 mL
                                                                    530 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -1,908 mL
                                                                     38 mL
   Respiratory support
   O2 Delivery Device: Tracheostomy tube
   Ventilator mode: CPAP/PSV
   Vt (Set): 450 (450 - 450) mL
   Vt (Spontaneous): 682 (387 - 682) mL
   PS : 12 cmH2O
   RR (Set): 14
   RR (Spontaneous): 11
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 69
   PIP: 17 cmH2O
   Plateau: 14 cmH2O
   SpO2: 100%
   ABG: ///38/
   Ve: 7.9 L/min
   Physical Examination
   GENERAL: thin, tracheostomy in place, able to answer yes/no questions
   without difficulty
   HEENT: NCAT. Sclera anicteric. PERRL 1mm, EOM not assessed. Conjunctiva
   were pink, no pallor or cyanosis of the oral mucosa. MM dry including
   lips.
   NECK: Supple with JVP <10
   CARDIAC: Distant heart sounds, no rubs/gallops/murmurs audible
   LUNGS: CTAB with poor/moderate air movement. No wheezes or crackles
   auscultated
   ABDOMEN: Peg in tact; Soft, NTND.  No HSM or tenderness. Abd aorta not
   enlarged by palpation. No abdominial bruits.  BS present.
   EXTREMITIES: No c/c/e. Warm, cap refill 2 sec
   SKIN: Bruising B upper extremity, Left Elbow with minimal skin
   irritation/breakdown, Hematoma in penile area and scrotum stable since
   yesterday, and slightly improved
   PULSES:  Right: DP 2+ PT 2+, Left: DP 2+ PT 2+
   Neurologic: Responds to: Verbal commands (squeeze fingers) Movement:
   Not assessed, Tone: Not assessed
   Labs / Radiology
   159 K/uL
   7.5 g/dL
   130 mg/dL
   0.9 mg/dL
   38 mEq/L
   3.6 mEq/L
   22 mg/dL
   101 mEq/L
   143 mEq/L
   22.3 %
   7.9 K/uL
        [image002.jpg]
                             [**2117-8-4**]  04:00 AM
                             [**2117-8-4**]  11:06 AM
                             [**2117-8-4**]  11:26 AM
                             [**2117-8-5**]  05:26 AM
                             [**2117-8-5**]  04:34 PM
                             [**2117-8-6**]  04:15 AM
                             [**2117-8-6**]  12:21 PM
                             [**2117-8-6**]  06:06 PM
                             [**2117-8-7**]  05:41 AM
                             [**2117-8-8**]  04:09 AM
   WBC
   20.1
   10.3
   8.8
   7.9
   Hct
   31.5
   29.1
   28.9
   26.6
   26.6
   32
   26.0
   22.3
   Plt
   198
   190
   161
   159
   Cr
   0.7
   0.6
   0.8
   0.9
   TCO2
   42
   38
   Glucose
   95
   98
   81
   130
   Other labs: PT / PTT / INR:13.2/47.2/1.1, CK / CKMB /
   Troponin-T:66/11/0.04, ALT / AST:22/43, Alk Phos / T Bili:77/0.5,
   Differential-Neuts:93.6 %, Lymph:2.7 %, Mono:3.2 %, Eos:0.4 %, Lactic
   Acid:1.0 mmol/L, Albumin:3.5 g/dL, LDH:226 IU/L, Ca++:8.3 mg/dL,
   Mg++:2.4 mg/dL, PO4:2.3 mg/dL
   Assessment and Plan
   74 yo M w/ with systolic heart failure and respiratory failure who has
   failed extubation x2; clean cath on [**2117-7-29**], now with resolving
   ventilator-associated pneumonia.  Sputum culture has grown coag+ Staph
   aureus.  Trach/PEG placed Friday.
   # Respiratory failure/COPD: Patient has failed to tolerate extubations
   X2 despite strict BP control with Nipride gtt and Anxiety management
   with Ativan. Likely etiology is severe emphysema/COPD, and second
   extubation may have been complicated by developing VAP.   Now being
   treated with Nafcillin/Cefepime. This morning comfortable on ps.
   - Will attempt [**2-23**] trials on PS today with ABG
   - Fentanyl gtt held. Will bolus PRN and convert to PO meds.
   - Will ask pulmonary to follow-up
   - Continue Nafcillin/Cefepime (Day #[**7-28**]) as above
   - Ativan prn for anxiety
   - Maintain pH 7.36-7.40 range, pCO2 in low 50
s to maintain drive to
   breathe.
   - Cont therapy for COPD flare (nebs).
   - Prednisone tapered to 40mg daily, will continue to taper slowly
   - FU Speech/swallow eval likely tomorrow
   # Presumed Ventilator-Associated Pneumonia: MSSA on sputum culture.  On
   Nafcillin/Cefepime (Day #[**7-28**]) for VAP. Leukocytosis has resolved. Low
   grade temperatures yesterday and this AM.
   - Continue Nafcillin/Cefepime (Day [**7-28**]), consider double pseudomonas
   coverage if patient worsens.
   - Continue to follow Blood cultures
   - UA/Urine Cx.
   .
   # Nausea: new onset of nausea before tube feeds starting; and since TFs
   started has had low residuals; unlikely secondary to tube
   feeding
uncertain etiology at this point.
     - Continue Zofran PRN and Ativan is zofran does not help enough
     - Continue to monitor
   # ANEMIA: Patient with HCT of 22.3 today.. Based on iron studies,
   likely secondary to iron deficiency anemia. Guaic negative. [**Month (only) 11**] be
   secondary to procedure on Friday?
   - Type and screen done
   - Transfuse if Hct < 21
   - Will fu HCT this AM. Continue to guaiac stools. Transfuse based on
   criteria above.
   .
   # HYPOTENSION: Stable in last 24 hours.
   - Give 250cc fluid bolus as needed for hypotensive episodes, goal MAP >
   55-60
   - D/C metoprolol since pressures have been low enough
   - Monitor UOP as sign for fluid boluses
   - Versed weaned and now off.
   .
   #HYPERGLYCEMIA: Fingersticks show blood sugar is more controlled at
   104-156.
   - D/c
d ISS; will check q AM sugars (this AM 141) stable
   - Continue qam finger sticks, restart fingersticks if AM sugars
   elevated.
   .
   # CORONARIES:  No apparent dx at this time
   - ASA 81mg and simvastatin 20mg daily
   # PUMP:  Volume status euvolemic, no evidence of overload on exam, no
   longer in heart failure.  I/O
s negative today and goal was to be even.
   - goal even today
   .
   # RHYTHM: Borderline 1st degree AV block on today
s ECG, SR;
   -  Cont to monitor on telemetry
   . # ANXIETY: Fentanyl gtt stopped will bolus fentanyl as needed.
    -Continue 0.5-1.0 mg boluses of Ativan PRN for agitation
   # Skin care: possible developing ulcer below coccyx, and now with
   substantial hematoma around penis and scrotum
   - Monitor for now, have elevated scrotum to encourage drainage
   - Turned q 2-3hr, applying skin care
   ICU Care
   Nutrition: Tube feeds: Fibersource HN (Full) - [**2117-7-31**] 01:28 AM 40
   mL/hour. Tube feeds started yesterday at 1500.
   Glycemic Control:  Insulin sliding scale plus glargine Lines:  20 Gauge
   - [**2117-7-30**] 03:00 AM, Left Wrist; PICC in tact
   Prophylaxis:
   DVT: SC heparin
   Bowel: Senna, colace for bowel regimen
   Stress ulcer: Lansoprazole
   VAP:  VAP bundle
   Communication:  with brother [**First Name4 (NamePattern1) **]
   [**Last Name (NamePattern1) 129**] status: Full
   Disposition: CCU for now ; contact case management today
   ------ Protected Section ------
   Cardiology Teaching Physician Note
   On this day I saw, examined and was physically present with the
   resident / fellow for the key portions of the services provided. I
   agree with the above note and plans.
   I would add the following remarks:
   Medical Decision Making
   getting patient ready for rehab
   Above discussed extensively with patient.
   ------ Protected Section Addendum Entered By:[**Name (NI) **] [**Name (NI) **]  on:[**2117-8-9**]
   11:47 ------

2117-08-09 07:57:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
   - Spoke with patient and brother and confirmed patient to be DNR/Do not
   reintubate. Will continue with current plan to discharge to rehab and
   work on long term weaning off vent.
   -Hct Down to 21.5 this morning.
   - Metoprolol discontinued.
   - Nausea improved with zofran, LFTs normal.
   - Trach Collar Trial(1515): Trial stopped after 15 minutes [**2-22**]
   significant respiratory distress. Pt was in such significant distress
   we decided to hold off on the Trach Collar Trial. Held off on ABGs.
   - Sliding Scale Insulin restarted. 4lantus, sliding scale.
   -Requesting to eat.
   S: Pt having pain around PEG site when he moves, would like something
   for pain. Otherwise, feeling OK.
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Nafcillin - [**2117-8-9**] 05:00 AM
   Cefipime - [**2117-8-9**] 05:48 AM
   Infusions:
   Other ICU medications:
   Lorazepam (Ativan) - [**2117-8-8**] 11:00 AM
   Lansoprazole (Prevacid) - [**2117-8-8**] 08:24 PM
   Heparin Sodium (Prophylaxis) - [**2117-8-8**] 08:24 PM
   Fentanyl - [**2117-8-9**] 12:34 AM
   Other medications:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2117-8-9**] 07:44 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.8
C (100
   Tcurrent: 37.2
C (99
   HR: 89 (78 - 108) bpm
   BP: 91/50(60) {80/43(55) - 123/78(82)} mmHg
   RR: 18 (8 - 27) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 59.5 kg (admission): 57.5 kg
   Height: 70 Inch
             Total In:
                                                                  2,045 mL
                                                                    663 mL
   PO:
             TF:
                                                                    983 mL
                                                                    386 mL
   IVF:
                                                                    942 mL
                                                                    227 mL
   Blood products:
   Total out:
                                                                  1,740 mL
                                                                    340 mL
   Urine:
                                                                  1,740 mL
                                                                    340 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    305 mL
                                                                    324 mL
   Respiratory support
   O2 Delivery Device: Tracheostomy tube
   Ventilator mode: CPAP/PSV
   Vt (Set): 450 (450 - 450) mL
   Vt (Spontaneous): 655 (420 - 875) mL
   PS : 12 cmH2O
   RR (Set): 10
   RR (Spontaneous): 16
   PEEP: 8 cmH2O
   FiO2: 40%
   RSBI: 89
   PIP: 21 cmH2O
   Plateau: 18 cmH2O
   SpO2: 100%
   ABG: ///37/
   Ve: 9.5 L/min
   Physical Examination
   GENERAL: thin, tracheostomy in place, able to answer yes/no questions
   without difficulty, write on clipboard.
   HEENT: NCAT. Sclera anicteric. PERRL 1mm, EOM not assessed. Conjunctiva
   were pink, no pallor or cyanosis of the oral mucosa. MM dry including
   lips.
   NECK: Thin, with JVP <10
   CARDIAC: Distant heart sounds, nl S1, S2, no rubs/gallops/murmurs
   audible
   LUNGS: CTAB with poor/moderate air movement. No wheezes or crackles
   auscultated
   ABDOMEN: Peg intact, no swelling or erythema at site; Soft, ND, BS
   present.  No HSM or tenderness. Abd aorta not enlarged by palpation. No
   abdominial bruits.
   EXTREMITIES: No c/c/e. Warm, cap refill 2 sec
   SKIN: Bruising B upper extremity, Left Elbow with minimal skin
   irritation/breakdown, Hematoma in penile area and scrotum stable and
   slightly improved
   PULSES:  Right: DP 2+ PT 2+, Left: DP 2+ PT 2+
   Neurologic: Responds to: Verbal commands (squeeze fingers), all
   questions. Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
   127 K/uL
   7.1 g/dL
   145 mg/dL
   0.8 mg/dL
   37 mEq/L
   3.6 mEq/L
   19 mg/dL
   103 mEq/L
   142 mEq/L
   21.5 %
   4.6 K/uL
        [image002.jpg]
                             [**2117-8-4**]  11:26 AM
                             [**2117-8-5**]  05:26 AM
                             [**2117-8-5**]  04:34 PM
                             [**2117-8-6**]  04:15 AM
                             [**2117-8-6**]  12:21 PM
                             [**2117-8-6**]  06:06 PM
                             [**2117-8-7**]  05:41 AM
                             [**2117-8-8**]  04:09 AM
                             [**2117-8-8**]  09:45 AM
                             [**2117-8-9**]  05:50 AM
   WBC
   10.3
   8.8
   7.9
   4.6
   Hct
   29.1
   28.9
   26.6
   26.6
   32
   26.0
   22.3
   23.0
   21.5
   Plt
   190
   161
   159
   127
   Cr
   0.6
   0.8
   0.9
   0.8
   TCO2
   38
   Glucose
   98
   81
   130
   145
   Other labs: PT / PTT / INR:13.2/47.2/1.1, CK / CKMB /
   Troponin-T:66/11/0.04, ALT / AST:16/27, Alk Phos / T Bili:41/0.4,
   Differential-Neuts:93.6 %, Lymph:2.7 %, Mono:3.2 %, Eos:0.4 %, Lactic
   Acid:1.0 mmol/L, Albumin:3.5 g/dL, LDH:234 IU/L, Ca++:7.5 mg/dL,
   Mg++:2.5 mg/dL, PO4:1.8 mg/dL
   Assessment and Plan
   74 yo M w/ with systolic heart failure and respiratory failure who has
   failed extubation x2; clean cath on [**2117-7-29**], now with resolving
   ventilator-associated pneumonia.  Sputum culture has grown coag+ Staph
   aureus.  Trach/PEG placed Friday.
   # Respiratory failure/COPD: Patient has failed to tolerate extubations
   X2 despite strict BP control with Nipride gtt and Anxiety management
   with Ativan. Likely etiology is severe emphysema/COPD, and second
   extubation may have been complicated by developing VAP.   Now being
   treated with Nafcillin/Cefepime ([**8-28**]). This morning comfortable on ps.
   - Will attempt [**2-23**] trials on PS today with ABG
   - Continue Nafcillin/Cefepime (Day #[**8-28**]) as above
   - Ativan prn for anxiety
   - Maintain pH 7.36-7.40 range, pCO2 in low 50
s to maintain drive to
   breathe.
   - Cont therapy for COPD flare (nebs).
   - Prednisone tapered to 30mg daily, will continue to taper slowly
   - FU Speech/swallow eval today
   # ANEMIA: Patient with HCT of 21.5 today. Based on iron studies, likely
   secondary to iron deficiency anemia. Guaic negative. Slowly trended
   down during hospitalization.
   - Transfuse one unit PRBCs
   - FU reticulocyte count.
   - Will fu HCT this AM. Continue to guaiac stools. Transfuse based on
   criteria above.
   - FU HCT at 2pm today.
   # Presumed Ventilator-Associated Pneumonia: MSSA on sputum culture.  On
   Nafcillin/Cefepime (Day #[**8-28**]) for VAP. Leukocytosis has resolved. Low
   grade temperatures continue
   - Continue Nafcillin/Cefepime (Day [**8-28**]), consider double pseudomonas
   coverage if patient worsens.
   - Continue to follow Blood cultures
   - UA/Urine Cx.
   .
   # Nausea: Low residuals. Normal LFTs. Zofran improved yesterday
     - Continue Zofran PRN and Ativan is zofran does not help enough
     - Continue to monitor
   .
   # HYPOTENSION: Stable in last 24 hours.
   - Give 250cc fluid bolus as needed for hypotensive episodes, goal MAP >
   55-60
   - D/C metoprolol since pressures have been low enough
   - Monitor UOP as sign for fluid boluses
   - Versed weaned and now off.
   .
   #HYPERGLYCEMIA: Elevated blood sugars on finger sticks yesterday.
   - Restarted Insulin sliding scale with Lantus 4U daily.
   - QACHS finger sticks.
   .
   # CORONARIES:  No apparent dx at this time
   - ASA 81mg and simvastatin 20mg daily
   # PUMP:  Volume status euvolemic, no evidence of overload on exam, no
   longer in heart failure.  I/O
s negative today and goal was to be even.
   - goal even today
   .
   # RHYTHM: Sinus Rhythm.
   -  Cont to monitor on telemetry
   . # ANXIETY: Fentanyl stopped.
    -Continue 0.5-1.0 mg boluses of Ativan PRN for agitation
   # Skin care: possible developing ulcer below coccyx, and now with
   substantial hematoma around penis and scrotum
   - Monitor for now, have elevated scrotum to encourage drainage
   - Turned q 2-3hr, applying skin care
   ICU Care
   Nutrition: Tube feeds: Fibersource HN (Full) - [**2117-7-31**] 01:28 AM 40
   mL/hour. Tube feeds started yesterday at 1500.
   Glycemic Control:  Insulin sliding scale plus glargine
   Lines:  20 Gauge - [**2117-7-30**] 03:00 AM, Left Wrist; PICC in tact
   Prophylaxis:
   DVT: SC heparin
   Bowel: Senna, colace for bowel regimen
   Stress ulcer: Lansoprazole
   VAP:  VAP bundle
   Communication:  with brother [**First Name4 (NamePattern1) **]
   [**Last Name (NamePattern1) 129**] status: Full
   Disposition: CCU for now ; contact case management today
   ------ Protected Section ------
   Cardiology Teaching Physician Note
   On this day I saw, examined and was physically present with the
   resident / fellow for the key portions of the services provided. I
   agree with the above note and plans.
   I would add the following remarks:
   Above discussed extensively with patient.
   Total time spent on patient care: 45 minutes.
   ------ Protected Section Addendum Entered By:[**Name (NI) **] [**Name (NI) **]  on:[**2117-8-9**]
   11:48 ------

2117-08-10 08:05:00 Physician Resident Progress Note
TITLE:
   Chief Complaint: Respiratory distress/COPD
   24 Hour Events:
   - Transfused 1 unit of blood - during transfusion, patient in
   respiratory distress (ABG at that time 7.41/53/355)- switched to AC
   ventilation.  Given 2mg morphine and 0.5mg ativan - patient calmed down
   and more comfortable.  Temporarily stopped blood transfusion, but
   restarted to be given over 4 hours.
   - CXR after resp distress showed no change
   - D/c'ed foley: incontinent afterwards, then voiding on own
   - D/c'ed antibiotics tonight
   - Fluticasone restarted
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Cefipime - [**2117-8-9**] 05:06 PM
   Nafcillin - [**2117-8-9**] 07:07 PM
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2117-8-9**] 08:00 AM
   Other medications:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2117-8-10**] 07:41 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.4
C (99.4
   Tcurrent: 36.9
C (98.4
   HR: 81 (63 - 94) bpm
   BP: 115/56(71) {88/45(55) - 140/101(105)} mmHg
   RR: 21 (11 - 31) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 60.2 kg (admission): 57.5 kg
   Height: 70 Inch
             Total In:
                                                                  2,148 mL
                                                                    463 mL
   PO:
             TF:
                                                                  1,045 mL
                                                                    386 mL
   IVF:
                                                                    642 mL
                                                                     77 mL
   Blood products:
                                                                    350 mL
   Total out:
                                                                  1,100 mL
                                                                    220 mL
   Urine:
                                                                  1,100 mL
                                                                    220 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,048 mL
                                                                    243 mL
   Respiratory support
   O2 Delivery Device: Tracheostomy tube
   Ventilator mode: CPAP/PSV
   Vt (Set): 450 (450 - 450) mL
   Vt (Spontaneous): 430 (300 - 573) mL
   PS : 12 cmH2O
   RR (Set): 10
   RR (Spontaneous): 22
   PEEP: 8 cmH2O
   FiO2: 40%
   RSBI: 118
   PIP: 25 cmH2O
   Plateau: 18 cmH2O
   SpO2: 100%
   ABG: 7.41/53/355//7
   Ve: 10.2 L/min
   PaO2 / FiO2: 887
   Physical Examination
   GENERAL: thin, tracheostomy in place, able to answer questions, write
   on clipboard.
   HEENT: NCAT. Sclera anicteric. PERRL 1mm, EOM not assessed. Conjunctiva
   were pink, no pallor or cyanosis of the oral mucosa. MM dry including
   lips.
   NECK: Thin, with JVP <10
   CARDIAC: Distant heart sounds, nl S1, S2, no rubs/gallops/murmurs
   audible
   LUNGS: CTAB with poor/moderate air movement. Upper airway sounds
   present, no wheezes or crackles auscultated
   ABDOMEN: Peg intact, no swelling or erythema at site; Soft, ND, BS
   present.  No HSM or tenderness. Abd aorta not enlarged by palpation. No
   abdominial bruits.
   EXTREMITIES: No c/c/e. Warm, cap refill 2 sec
   SKIN: Bruising B upper extremity, Left Elbow with minimal skin
   irritation/breakdown, Hematoma in penile area and scrotum stable and
   improving
   PULSES:  Right: DP 2+ PT 2+, Left: DP 2+ PT 2+
   Neurologic: Responds to: Verbal commands, all questions. Movement: Not
   assessed, Tone: Not assessed
   Labs / Radiology
   127 K/uL
   7.1 g/dL
   145 mg/dL
   0.8 mg/dL
   37 mEq/L
   3.6 mEq/L
   19 mg/dL
   103 mEq/L
   142 mEq/L
   25.8 %
   4.6 K/uL
        [image002.jpg]
                             [**2117-8-5**]  04:34 PM
                             [**2117-8-6**]  04:15 AM
                             [**2117-8-6**]  12:21 PM
                             [**2117-8-6**]  06:06 PM
                             [**2117-8-7**]  05:41 AM
                             [**2117-8-8**]  04:09 AM
                             [**2117-8-8**]  09:45 AM
                             [**2117-8-9**]  05:50 AM
                             [**2117-8-9**]  01:46 PM
                             [**2117-8-9**]  08:25 PM
   WBC
   8.8
   7.9
   4.6
   Hct
   28.9
   26.6
   26.6
   32
   26.0
   22.3
   23.0
   21.5
   25.8
   Plt
   161
   159
   127
   Cr
   0.8
   0.9
   0.8
   TCO2
   35
   Glucose
   81
   130
   145
   Other labs: PT / PTT / INR:13.2/47.2/1.1, CK / CKMB /
   Troponin-T:66/11/0.04, ALT / AST:16/27, Alk Phos / T Bili:41/0.4,
   Differential-Neuts:93.6 %, Lymph:2.7 %, Mono:3.2 %, Eos:0.4 %, Lactic
   Acid:1.0 mmol/L, Albumin:3.5 g/dL, LDH:234 IU/L, Ca++:7.5 mg/dL,
   Mg++:2.5 mg/dL, PO4:1.8 mg/dL
   Assessment and Plan
   Assessment and Plan
   74 yo M w/ with systolic heart failure and respiratory failure who has
   failed extubation x2; clean cath on [**2117-7-29**], now with resolving
   ventilator-associated pneumonia.  Sputum culture has grown coag+ Staph
   aureus.  Trach/PEG placed Friday.
   # Respiratory failure/COPD: Patient has failed to tolerate extubations
   X2 despite strict BP control with Nipride gtt and Anxiety management
   with Ativan. Likely etiology is severe emphysema/COPD, and second
   extubation may have been complicated by developing VAPFinished Abx
   regimen with good improvement. 2 episodes of respiratory distress
   yesterday; 1 during transfusion, 1 during movement while bathing. 1^st
   episode may have been [**2-22**] bronchospasm reaction to transfusion vs
   anxiety vs increased movement. Pt feels increased movement exacerbates
   breathing, indicating fragility of respiratory tolerance to
   perturbation. This morning comfortable on ps.
   - Will attempt  trials w/ higher PEEP of 8
   - Nafcillin/Cefepime dc
d last night
   - Ativan prn for anxiety
   - Maintain pH 7.36-7.40 range, pCO2 in low 50
s to maintain drive to
   breathe.
   - Cont therapy for COPD flare (nebs).
   - Prednisone taper at 30mg daily, will continue to taper slowly
   # ANEMIA: Patient with HCT of 25.8 today, indicating appropriate
   response to transfusion. Low reticulocyte count yesterday (1.6)
   inappropriate given degree of anemia. Based on iron studies, likely
   secondary to iron deficiency anemia. Guaiac negative. Slowly trended
   down during hospitalization, likely iatrogenic +/- steroid inhibition.
   -Monitor for now
   # Presumed Ventilator-Associated Pneumonia: MSSA on sputum culture.
   Nafcillin/Cefepime finished last night (Day #[**8-28**]) for VAP. Leukocytosis
   has resolved. Low grade temperatures continue
   - Blood and Urine cultures were negative
   -Continue to monitor improvement
   .
   # HYPOTENSION: Stable in last 24 hours.
   - Give 250cc fluid bolus as needed for hypotensive episodes, goal MAP >
   55-60
   - Monitor UOP as sign for fluid boluses
   - Versed weaned and now off.
   .
   #HYPERGLYCEMIA: blood sugars Controlled on 4U glargine and HISS.
   - Continue Insulin sliding scale with Lantus 4U daily.
   - QACHS finger sticks.
   .
   # CORONARIES:  No apparent dx at this time
   - ASA 81mg and simvastatin 20mg daily
   # PUMP:  Volume status euvolemic, no evidence of overload on exam, no
   longer in heart failure.  I/O
s even today and goal was to be even.
   - goal even today
   .
   # RHYTHM: Sinus Rhythm.
   -  Cont to monitor on telemetry
   . # ANXIETY: 2 episodes of anxiety relieved with Ativan.
    -Continue 0.5-1.0 mg boluses of Ativan PRN for agitation
   # Skin care: skin breakdown below coccyx, L elbow and now with
   substantial hematoma around penis and scrotum
   - Monitor for now, have elevated scrotum to encourage drainage
   - Turned q 2-3hr, applying skin care
   ICU Care
   Nutrition: Tube feeds: Fibersource HN (Full) - [**2117-7-31**] 01:28 AM 40
   mL/hour. Tube feeds started yesterday at 1500.
   Glycemic Control:  Insulin sliding scale plus glargine
   Lines:  20 Gauge - [**2117-7-30**] 03:00 AM, Left Wrist; PICC in tact
   Prophylaxis:
   DVT: SC heparin
   Bowel: Senna, colace for bowel regimen
   Stress ulcer: Lansoprazole
   VAP:  VAP bundle
   Communication:  with brother [**First Name4 (NamePattern1) **]
   [**Last Name (NamePattern1) 129**] status: Full
   Disposition: CCU for now ; contact case management today
   ICU Care
   Nutrition:
   Fibersource HN (Full) - [**2117-8-10**] 02:56 AM 50 mL/hour
   Glycemic Control:
   Lines:
   PICC Line - [**2117-8-5**] 11:30 AM
   20 Gauge - [**2117-8-6**] 02:30 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status:
   Disposition:
   ------ Protected Section ------
   Cardiology Teaching Physician Note
   On this day I saw, examined and was physically present with the
   resident / fellow for the key portions of the services provided. I
   agree with the above note and plans.
   I would add the following remarks: doing well; cardiac issues are
   stable (no CHF or coronary issues)
   Above discussed extensively with patient.
   ------ Protected Section Addendum Entered By:[**Name (NI) **] [**Name (NI) **]  on:[**2117-8-10**]
   10:47 ------